US04064106
Benzyl bromide was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain benzyl dicyclohexylphosphinodithioate, m.p. 107°14 108° C, which on testing lasted 350 hours longer than the control. The total number of hours required to reach failure was 1.9 times that of the control.

reactant | Benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | benzyl dicyclohexylphosphinodithioate | C1(CCCCC1)P(=S)(SCC1=CC=CC=C1)C1CCCCC1 | C19H29PS2
